US08957074B2
Following general N—C coupling procedure 1, 4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester, 1.86 g (7.72 mmoles) was combined with 5-Bromo-2-nitro-pyridine, 1.51 g (7.42 mmoles), which after recrystallized from CH2Cl2-Heptanes gave 3-(6-Nitro-pyridin-3-yl)-4-oxo-3,9-diaza bicyclo[4.2.1]nonane-9-carboxylic acid tea-butyl ester, (1.59 g) in 58% yield. TLC Rf ˜0.45 (75% Ethyl acetate-Heptane)

reactant | 4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CNC(CC1CC2)=O | C12H20N2O3
reactant | 5-Bromo-2-nitro-pyridine | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 3-(6-Nitro-pyridin-3-yl)-4-oxo-3,9-diaza bicyclo[4.2.1]nonane-9-carboxylic acid | 58% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1CC2CCC(CC1=O)N2C(=O)O | C13H14N4O5
